US07473797B2
4-(4-Ethoxycarbonyl-but-3-en-1-ynyl)-benzoic acid methyl ester (Table 2, entry 12):
The general procedure was used to convert 4-Ethynyl-benzoic acid methyl ester and (Z)-ethyl-3-iodoacrylate to the title product. Purification by flash chromatography (30% ethyl acetate in hexane as the eluent) gave the analytically pure product as a light yellow solid (450 mg, 88% yield). 1H NMR (400 MHz, CDCl3) δ 8.01-7.99 (d, J=8.5, 2H), 7.59-7.57 (d, J=8.5, 2H), 6.37-6.34 (d, J=11.4, 1H), 6.20-6.17 (d, J=11.4, 1H), 4.29-4.23 (q, J=7.1, 2H), 3.91 (s, 3H), 1.34-1.30 (t, J=7.1, 3H). 13C NMR (100 MHz, CDCl3) δ 166.36, 164.60, 131.91, 130.31, 129.52, 129.37, 127.29, 122.25, 99.73, 88.79, 60.55, 52.24, 14.30. Anal. Calcd. for C15H14O4: C, 69.76; H, 5.46; Found C, 69.90; H, 5.55. m.p.: 49.0°-51.0° C.

reactant | 4-Ethynyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C#C)=O | C10H8O2
reactant | (Z)-ethyl-3-iodoacrylate | C(C)OC(\C=C/I)=O | C5H7IO2
product | 4-(4-Ethoxycarbonyl-but-3-en-1-ynyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C#CC=CC(=O)OCC)=O | C15H14O4
